US09340549B2
(S)-3-(4-((3-Aminopyridin-4-yl)amino)cyclohexyl)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one
To a flask charged with (S)-4-(4-fluorophenyl)-5,5-dimethyl-3-(4-((3-nitropyridin-4-yl)amino)cyclohexyl)oxazolidin-2-one (0.285 g, 0.665 mmol) was added EtOH (13.30 mL). Raney 3202 nickel (slurry in water) (0.733 mL, 111 mmol) was then added using a pipette. The flask was sealed, placed under nitrogen, and heated at 40° C. To the resulting yellow solution was added hydrazine hydrate solution (0.311 mL, 9.98 mmol) dropwise. The resulting mixture was stirred for 90 minutes at 40° C. LC-MS indicated complete conversion to the desired product. The mixture was cooled to room temperature, filtered through Celite® brand filter aid, and washed with MeOH. The filtrate was dried under reduced pressure and was then purified using a 5 g SCX-2 column washing with MeOH and then with 2 M NH3 in MeOH. The basic wash was dried under reduced pressure providing a brown oil which solidified after overnight under high vacuum to yield (S)-3-(4-((3-aminopyridin-4-yl)amino)cyclohexyl)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one (0.213 g, 0.535 mmol, 80% yield) as a yellow solid. m/z (ESI) 399.0 (M+H)+.

reactant | (S)-4-(4-fluorophenyl)-5,5-dimethyl-3-(4-((3-nitropyridin-4-yl)amino)cyclohexyl)oxazolidin-2-one | 0.665 mmol, 0.285 g | FC1=CC=C(C=C1)[C@@H]1N(C(OC1(C)C)=O)C1CCC(CC1)NC1=C(C=NC=C1)[N+](=O)[O-] | C22H25FN4O4
reactant | hydrazine hydrate | 9.98 mmol, 0.311 mL | O.NN
catalyst | nickel | 111 mmol, 0.733 mL | [Ni] | Ni
solvent | EtOH | 13.30 mL | CCO | C2H6O
product | (S)-3-(4-((3-Aminopyridin-4-yl)amino)cyclohexyl)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one | NC=1C=NC=CC1NC1CCC(CC1)N1C(OC([C@@H]1C1=CC=C(C=C1)F)(C)C)=O | C22H27FN4O2
